2180-07-25 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2180-7-25**] 04:15 AM
   [**2180-7-24**]:
   -pt was given lasix 10mg x2, had good UOP
   -lung exam improved on diuresis
   -tachycardic to 100s when there are people talking to her in the room,
   otherwise HR in 80s
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonia;
   Zosyn (Intraven.) (Piperacillin Sodium/Tazobactam)
   Fever/Chills;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2180-7-24**] 06:43 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-7-25**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.3
C (95.6
   HR: 102 (83 - 133) bpm
   BP: 119/97(102) {117/88(96) - 137/107(112)} mmHg
   RR: 22 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
                  Total In:
                                                                    850 mL
                                                                     60 mL
   PO:
                                                                    600 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                    790 mL
                                                                    395 mL
   Urine:
                                                                    415 mL
                                                                    395 mL
   NG:
   (60cc/hr)
   Stool:
   Drains:
   Balance:
                                                                     60 mL
                                                                   -335 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///18/
   Physical Examination
   General: A+Ox3, Fatigued, slightly withdrawn but appropriate for
   situation, tearful at times. Pleasant.
   HEENT: No scleral icterus or conjunctival pallor. MMM
   Lungs: Bilateral rales at bases up 1/3 of lung field, no wheezes or
   rhonchi.
   Cardiac: RRR NL S1/S2, no S3/S4, no rubs or gallops
   Abdomen: Soft, gravid uterus, normo-active bowel sounds, non-tender
   Extr: No significant edema, radial/DP/PT 2+ bilaterally, slightly cool
   feet but normal capillary refill
   Labs / Radiology
   123 K/uL
   11.0 g/dL
   133 mg/dL
   1.2 mg/dL
   18 mEq/L
   4.5 mEq/L
   51 mg/dL
   103 mEq/L
   133 mEq/L
   34.5 %
   15.5 K/uL
        [image002.jpg]
                             [**2180-7-24**]  10:05 PM
                             [**2180-7-25**]  04:00 AM
   WBC
   14.4
   15.5
   Hct
   32.1
   34.5
   Plt
   128
   123
   Cr
   1.0
   1.2
   TropT
   0.01
   Glucose
   145
   133
   Other labs:
   PT / PTT / INR:10.8/20.2/0.9,
   CK / CKMB / Troponin-T:10/3/0.01,
   ALT / AST:28/23, Alk Phos / T Bili:96/0.3,
   Fibrinogen:386 mg/dL, Albumin:2.6 g/dL, LDH:236 IU/L, Ca++:8.3
   (c9.4)mg/dL, Mg++:2.7 mg/dL, PO4:6.6 mg/dL
   ESR: 35
   TSH: 0.38
   CRP 10.5
   [**Doctor First Name 1205**], parvo, C3, C4, ACA IgG/IgM pending
   MICRO:
   Urine, Toxo, CMV Pending
   RPR NR
   Reports:
   CXR Today
   FINDINGS: The heart is mildly increased in size. There are bilateral
   pleural
   effusions. There is hazy bilateral vasculature with pulmonary vascular
   redistribution.
   IMPRESSION: CHF.
   .
   Transthoracic Echocardiogram:
   The left atrium is normal in size. Left ventricular wall thicknesses
   are normal. The left ventricular cavity size is normal. There is
   moderate global left ventricular hypokinesis. Overall left ventricular
   systolic function is moderately depressed (LVEF= 30-40 %). The number
   of aortic valve leaflets cannot be determined. The mitral valve
   leaflets are structurally normal. Moderate (2+) mitral regurgitation is
   seen. There is no pericardial effusion.
   .
   EKG:
   Sinus tachycardia, left axis deviation, TWI in I, aVL, V5-V6 (new as
   compared to prior), poor R wave progression, <0.5 ST depression in I,
   aVL, possibly V5-V6
   Assessment and Plan
   Mrs. [**Known lastname **] is a 35 year old female with history of SLE and restrictive
   lung disease who is transferred to the [**Hospital Unit Name 44**] for further management of
   new CHF in the setting of intra-uterine fetal demise detected today.
   .
   # Shortness of breath: Based on clinical examination with bibasilar
   rales, chest x-ray with enlarged cardiac sillohuette and pleural
   effusions, and echocardiogram with EF 30%, fits picture of new systolic
   heart failure. Etiology is not entirely clear, as no dilation seen
   (dilated cardiomyopathy of pregnancy), less likely ischemic in this
   young female, no classically associated with Lupus flare. No report of
   significant stressors prior to news of IUFD this AM to suspect
   Takotsubo's cardiomyopathy. Her renal function appears stable based on
   creatinine, and although she has proteinuria, it does not appear to be
   significantly worse as compared to the last several weeks, making
   nephrotic syndome less likely the etiology of her fluid overloaded
   state. Recent use of steriods likely contributed at least some degree
   to fluid retention, but would not explain depressed EF.
   .
   Best way to put together her presentation is likely subtle asymptomatic
   decline in her EF since [**2177**] (possibly due to SLE), with possible
   diastolic component from HTN, and in setting of worsening hypertension
   coupled with increased fluid retention (both due to steroids and
   pregnancy) with increased circulating volume due to 2^nd trimester
   pregnancy unmasked worsening EF and led to decompensation. EF of 30%
   may represent acute worsening from baseline in setting of
   decompensation versus new baseline (last echo in our system was
   3/[**2177**]). Tachycardia today and acute stress of IUFD further worsened
   picture with less time for filling in diastole. Now has 2+ MR as well,
   so would likely benefit from afterload reduction (eg ACE-I for
   proteinuria as well) once fluid status and renal function stable.
   .
   Her underlying restrictive disease is also likely contributing along
   with increased pressure on the diaphragm due to gravid uterus.  HIV
   negative 6/[**2179**]. Other potential etiologies include secondary to SLE or
   medication effect (rare effect of plaquenil)
   - Follow up final cardiac echocardiogram read
   - Continue diuresis with 10 mg IV lasix bolus, as she has had good
   output to first dose and feels subjectively better already with nearly
   400cc of urine out
   - Strict I/O's, goal net out at least 1 L as tolerated by creatinine
   and blood pressure; holding other BP medications for now to leave room
   for diuresis
   - Monitor potassium, repleting and monitoring magnesium
   - Investigate potential etiologies: TSH within normal limits, has been
   on multivitamin making beriberi very unlikely
   - Follow U/A and proteinuria
   - D&E tomorrow should also help fluid status by decreasing uterine
   blood flow and thus eventually reduce circulating intravascular volume
   - BNP and CK, troponin pending
   - Follow up PM creatinine to ensure she tolerates diuresis
   - Discussed with cardiology team who agrees with diuresis as first
   step, formal consult in AM
   .
   # Fetal demise: Unfortunately noted incidentially today during
   evalution. Patient has been seen by social work and currently has good
   support available from her husband and sister. She had significant
   pre-pregnancy counseling about the high risk nature of this pregnancy.
   Work-up for etiology of demise per OB/GYN and rheumatology team
   - D&E planned for tomorrow under general anesthesia
   - Appreciate OB/GYN assistance with management
   - Per OB/GYN team discussion with resident and attending, they would
   recommend holding antibiotics at this time unless patient has rupture
   of membranes--at that time would then start regimen of amp/gent/clinda
   or amp/erythromycin
   - Patient has active type and screen, NPO at midnight
   - 2nd large bore IV to be placed
   - Monitor coagulation factors, CBC, electrolytes, LFTs q8h
   .
   # SLE: Patient followed by rheumatoloy at [**Hospital1 183**] and was seen by
   rheumatology team as a consult today. Her creatinine is stable.
   - Appreciate rheumatology recommendations
   - Continuing stress dose steroids for now surrounding her D&E, however
   would like to decrease dose as soon as possible, as want to minimize
   fluid retention
   - Continue home medications as recommended
   .
   # Thrombocytopenia: Has been attributed to her SLE. Currently stable
   and actually improved from this AM.
   - Continue to monitor closely, has active type in event she develops
   bleeding or plt count drops <60
   .
   # Anemia: Suspect both of chronic disease secondary to SLE as well as
   physiologic of pregnancy.
   - Continue to monitor, currently stable.
   .
   # Leukocytosis: Suspect both reactive to stress of IUFD as well as
   recent steroid taper.
   - Continue to monitor, low threshold to culture and initiate
   antibiotics should she demonstrate any signs of infection or
   hemodynamic decline
   .
   # Gastritis: Continue PPI
   .
   # Anion gap acidosis: Mildly elevated anion gap. Suspect largely due to
   elevated BUN. Will continue to monitor. Checking albumin to further
   assess gap.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2180-7-24**] 07:00 PM
   Prophylaxis:
   DVT: Pneumoboots given planned surgery and thrombocytopenia
   Stress ulcer: PPI (on for gastritis)
   VAP:
   Comments:
   Communication:  Comments: Husband [**Name (NI) 464**] (number on board in room)
   Code status: Full code
   Disposition: ICU for now until she goes to OR for D&E.

2180-07-25 09:48:00 Physician Attending Progress Note
Chief Complaint: tachypnea, orthopnea, hypoxia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Received 10 mg IV lasix x 2 overnight, Diuresed  with fluid balance
   -565 cc since midnight
   Feels breathing is much improved; less orthopnea; slept flat lying on
   left side
   BP tolerated diuresis, SBP 110 - 130 overnight
   Received doxycycline overnight as per OB service
   24 Hour Events:
 EKG - At [**2180-7-25**] 04:15 AM - TW inversions I and AVR
   History obtained from Patient
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonia;
   Zosyn (Intraven.) (Piperacillin Sodium/Tazobactam)
   Fever/Chills;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2180-7-24**] 06:43 PM
   Other medications:
   pantoprazole
   imuran
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-7-25**] 09:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 93 (83 - 133) bpm
   BP: 124/97(103) {117/88(96) - 137/107(112)} mmHg
   RR: 17 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                    850 mL
                                                                     60 mL
   PO:
                                                                    600 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                    790 mL
                                                                    625 mL
   Urine:
                                                                    415 mL
                                                                    625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     60 mL
                                                                   -565 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///18/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), S3, (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   right base), (Breath Sounds: Crackles : less than [**11-21**] bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Oriented (to):
   fully oriented, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   11.0 g/dL
   123 K/uL
   133 mg/dL
   1.2 mg/dL
   18 mEq/L
   4.5 mEq/L
   51 mg/dL
   103 mEq/L
   133 mEq/L
   34.5 %
   15.5 K/uL
        [image002.jpg]
                             [**2180-7-24**]  10:05 PM
                             [**2180-7-25**]  04:00 AM
   WBC
   14.4
   15.5
   Hct
   32.1
   34.5
   Plt
   128
   123
   Cr
   1.0
   1.2
   TropT
   0.01
   Glucose
   145
   133
   Other labs: PT / PTT / INR:10.8/20.2/0.9, CK / CKMB /
   Troponin-T:10/3/0.01, ALT / AST:28/23, Alk Phos / T Bili:96/0.3,
   Fibrinogen:386 mg/dL, Albumin:2.6 g/dL, LDH:236 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.7 mg/dL, PO4:6.6 mg/dL
   Fluid analysis / Other labs: ESR - 35
   TSH - 0.38
   Microbiology: RPR - nonreactive
   Assessment and Plan
 H/O HEART FAILURE (CHF), SYSTOLIC, ACUTE:  Diuresed overnight.  I/0
   -   negative about half a liter since midnight.  Clinically improved,
   CXR improved albeit given supine AP film difficult to know if she has
   residual effusion layering up.  Still with dullness to percussion right
   base, fine crackles < [**11-21**] way up.  To give repeat dose of 10 mg IV
   lasix this am.  Cardiolgy to evaluate this am.  Monitor K/Mg with
   diruesis.
 PREGNANCY WITH FETAL DEMISE:  Followed by OB service.  They discussed
   options with patient this morning relative to going through L & D vs.
   scheduled D & E.  Patient and husband weighing decision.  Continued
   stress dose steroids overnight, received last dose of hydrocrotisone ~
   2 am. Will discuss need for fruther dosing with OB.
 SLE:  Received stress dose steroids overnight. Hold
   methylprednisolone on hydrocortisone.
 THROMBOCYTOPENIA:  An issue in the past requiring intermittent
   steroids.  Platelet count remains greater than 120.
 RENAL INSUFFICIENCY: Slight bump in creatinine in setting of diuresis
   overnight.  Given she had clinically improved did not feel the need to
   push further given she has underlying SLE and dcoumented proteinurial.
 ANXIETY:  Seems less anxious this am albeit still see HR increase
   when family or staff enter patient's room.  Monitor need for
   axiolytics.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2180-7-24**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :
   Total time spent: 60 minutes
   Patient is critically ill

2180-07-26 11:45:00 Physician Attending Progress Note
Chief Complaint: Congestive heart failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Tolerated D & E, EBL 500 cc, received IVF in OR
   Hemodynamically stable overnight
   Tranfused 1 u pRBCs postoperatively
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonia;
   Zosyn (Intraven.) (Piperacillin Sodium/Tazobactam)
   Fever/Chills;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2180-7-26**] 11:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.8
   HR: 106 (93 - 124) bpm
   BP: 112/86(93) {102/73(81) - 128/107(113)} mmHg
   RR: 21 (15 - 26) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 69.8 kg (admission): 70.2 kg
   Height: 65 Inch
           Total In:
                                                                  3,080 mL
                                                                    570 mL
   PO:
                                                                    430 mL
                                                                    270 mL
   TF:
   IVF:
                                                                  2,357 mL
                                                                    243 mL
   Blood products:
                                                                    293 mL
                                                                     57 mL
   Total out:
                                                                  1,715 mL
                                                                    740 mL
   Urine:
                                                                  1,545 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,365 mL
                                                                   -170 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   fine at both bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x 3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   100 K/uL
   82 mg/dL
   1.2 mg/dL
   22 mEq/L
   4.7 mEq/L
   52 mg/dL
   106 mEq/L
   136 mEq/L
   30.0 %
   20.3 K/uL
        [image002.jpg]
                             [**2180-7-24**]  10:05 PM
                             [**2180-7-25**]  04:00 AM
                             [**2180-7-25**]  06:42 PM
                             [**2180-7-26**]  02:55 AM
                             [**2180-7-26**]  06:58 AM
   WBC
   14.4
   15.5
   22.5
   20.3
   Hct
   32.1
   34.5
   27.4
   29.0
   30.0
   Plt
   128
   123
   116
   100
   Cr
   1.0
   1.2
   1.1
   1.2
   TropT
   0.01
   Glucose
   145
   133
   96
   82
   Other labs: PT / PTT / INR:10.9/22.0/0.9, CK / CKMB /
   Troponin-T:10/3/0.01, ALT / AST:24/23, Alk Phos / T Bili:82/0.4,
   Fibrinogen:287 mg/dL, Albumin:2.3 g/dL, LDH:251 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:6.2 mg/dL
   Imaging: CXR:  Poor inspiration; increased interstital markings
   Microbiology: Toxo: negative
   CMV:  IgG negative, IgM positive
   Assessment and Plan
 FETAL DEMISE:  Now status post D & E yesterday, minimal spotting, hct
   stable.
 ANEMIA DUE TO BLOOD LOSS:  Bumped appropriatedly to transfusion of
   one unit of pRBCs.  Monitor Hct and vaginal blood loss, latter has been
   minimal spotting.
 H/O HEART FAILURE (CHF), SYSTOLIC, ACUTE:  Minimal crackles on exam,
   diuresing well on her own.  Cr up from 1.1 to 1.2 today.  Hold on
   further diuretics.  Given low EF and MR on repeat echo, will consider
   starting ACE I after discussing with renal service who will be
   evaluating her today.
 ACUTE ON CHRONIC  RENAL FAILURE:   Slight bump in Cr despite being 1
   L positive, blood transfusion postop.  No further diruesis.  [**Month (only) 60**] have
   component of underlying renal disease related to SLE.
 SLE:  On prednisone as per rheumatoloty. Followup on remaining labs.
   To followup with [**Hospital1 183**] rheumatologists.
 THROMBOCYTOPENIA:  Platelet count drifting down.   She has had low
   platelets in the past in setting of SLE flares, also may be drug
   related due to imuran.  [**Month (only) 60**] want to change to differnt durg.  On
   prednisone.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2180-7-24**] 07:00 PM
   Prophylaxis:
   DVT: (ambulate)
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes